US07056918B2
4-Fluoro-N-methoxy-N-methyl-3-nitro-benzamide.
4-Fluoro-3-nitrobenzoic acid (100 gm, 0.54 mol) was taken up in dry methylene chloride (1 L) and 1.5 mL of DMF was added. To this solution was added oxalyl chloride (61 mL, 0.702 mol). After 1.5 hours, the solvent was removed in vacuo and the crude acid chloride (yellow oil) was taken up in methylene chloride (50 mL) and slowly added to a stirring mixture of triethylamine (150.5 mL, 1.08 mol) and Weinreb amine hydrochloride (68.5 gm, 0.702 mol) in methylene chloride (950 mL) at 0 deg C. The reaction was allowed to warm to room temperature and stirred overnight. The reaction mixture was washed with saturated sodium dihydrogen phosphate, followed by water. The organic phase was dried over anhydrous sodium sulfate and concentrated in vacuo to an orange-yellow oil. The crude oil was triturated with pentane to give 110.28 gm (90%) of a yellow to off white powder.

reactant | 4-Fluoro-3-nitrobenzoic acid | 0.54 mol, 100 gm | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.702 mol, 61 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1.08 mol, 150.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 950 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-N-methoxy-N-methyl-3-nitro-benzamide | FC1=C(C=C(C(=O)N(C)OC)C=C1)[N+](=O)[O-] | C9H9FN2O4
